US07612075B2
1-[4-(4-Aminoquinazoline-7-ylmethyl)-3-oxo-2-propyl-piperazine-1-yl]-3-(5-chloro-thiophen-2-yl)-2-fluoro-propane-1,3,dione
Prepared by a procedure of Differding and Ofner. (Synlett 1991, 187.). A solution of 1-[4-(4-aminoquinazoline-7-ylmethyl)-3-oxo-2-propyl-piperazine-1-yl]-3-(5-chloro-thiophen-2-yl)-propane-1,3,dione (0.486 g, 1 mmol) in 40 ml of THF is added dropwise to an ice cold suspension of NaH (0.16 g of 60% NaH, 4 mmol) and 5 ml of THF. After the mixture had stirred one hour at 0° C., a solution of N-fluorobenzenesulfonimide (Aldrich) (0.378 g, 1.2 mmol) in 10 ml of THF is added dropwise. The reaction is stirred overnight at room temperature before quenching with glacial acetic acid (0.23 ml, 0.240 g, 4 mmol). The volatiles are evaporated in vacuo and the residue purified by flash column chromatography eluting with a gradient of 5% CH3OH/H2CCl2 to 10% CH3OH/H2CCl2 to provide the product as a white solid. The product could be recrystallized from THF/hexane. M.P. 194-6° C. MS (ion spray) m/z 504, (M+H).

reactant | 1-[4-(4-aminoquinazoline-7-ylmethyl)-3-oxo-2-propyl-piperazine-1-yl]-3-(5-chloro-thiophen-2-yl)-propane-1,3,dione | 1 mmol, 0.486 g | NC1=NC=NC2=CC(=CC=C12)CN1C(C(N(CC1)C(CC(=O)C=1SC(=CC1)Cl)=O)CCC)=O | C23H24ClN5O3S
reactant | NaH | 4 mmol, 0.16 g | [H-].[Na+]
reactant | N-fluorobenzenesulfonimide | 1.2 mmol, 0.378 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | acetic acid | 4 mmol, 0.23 ml, 0.240 g | C(C)(=O)O | C2H4O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-[4-(4-Aminoquinazoline-7-ylmethyl)-3-oxo-2-propyl-piperazine-1-yl]-3-(5-chloro-thiophen-2-yl)-2-fluoro-propane-1,3,dione | NC1=NC=NC2=CC(=CC=C12)CN1C(C(N(CC1)C(C(C(=O)C=1SC(=CC1)Cl)F)=O)CCC)=O | C23H23ClFN5O3S
